US04798777
1,2-benzo-3,4-dihydrocarbazole synthesized from phenylhydrazine and α-tetralone according to the method of J. Am. Chem. Soc., 69, 2910 (1947) was dehydrogenized with palladiumcarbon to obtain 1,2-benzocarbazole.

reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | α-tetralone | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
catalyst | palladiumcarbon | [C].[Pd]
product | 1,2-benzocarbazole | C1=CC=C2C(=C1)C=CC3=C2NC4=CC=CC=C34 | C16H11N
